US08957070B2
1-(Methoxymethyl)-2-(1,3-thiazol-2-yl)-1H-indole-7-amine
A mixture of 1-(methoxymethyl)-7-nitro-2-(1,3-thiazol-2-yl)-1H-indole (2.14 g), iron(III) chloride hexahydrate (0.12 g), activated carbon (1.20 g), tetrahydrofuran (10 mL) and methanol (10 mL) was heated under reflux for 20 min. To the reaction mixture was added hydrazine monohydrate (2.20 g) over 15 min while heating under reflux. The reaction mixture was heated under reflux for 2 hr, filtrated, and the filtrate was concentrated. The residue was dissolved in ethyl acetate, washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography and the title compound (1.87 g, yield 97%) was obtained as a yellow oil from a fraction eluted with ethyl acetate-hexane (1:2, volume ratio).

reactant | 1-(methoxymethyl)-7-nitro-2-(1,3-thiazol-2-yl)-1H-indole | 2.14 g | COCN1C(=CC2=CC=CC(=C12)[N+](=O)[O-])C=1SC=CN1 | C13H11N3O3S
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | hydrazine monohydrate | 2.20 g | O.NN
catalyst | iron(III) chloride hexahydrate | 0.12 g | O.O.O.O.O.O.[Fe](Cl)(Cl)Cl
solvent | methanol | 10 mL | CO | CH4O
product | 1-(Methoxymethyl)-2-(1,3-thiazol-2-yl)-1H-indole-7-amine | 1.87 g, yield 97% | COCN1C(=CC2=CC=CC(=C12)N)C=1SC=CN1 | C13H13N3OS
